US08648068B2
113.1 4-[2-((3S,5S)-1-tert-Butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
Prepared analogously to example 1.1 from 4-chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester and (2S,4S)-tert-butyl 4-(2-amino-5-fluorophenoxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate.

reactant | 4-chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)C | C9H7ClN2O2S
reactant | (2S,4S)-tert-butyl 4-(2-amino-5-fluorophenoxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | NC1=C(O[C@H]2C[C@H](N(C2)C(=O)OC(C)(C)C)CO)C=C(C=C1)F | C16H23FN2O4
product | 4-[2-((3S,5S)-1-tert-Butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CN([C@@H](C2)CO)C(=O)OC(C)(C)C)S1)C | C25H29FN4O6S
